US07902356B2
2-(4-Chloro-phenyl)-5-[4-(4-hydroxy-piperidin-1-yl)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Dissolve 2-(4-chloro-phenyl)-5-[3-methoxy-4-(4-triisopropylsilanyloxy-piperidin-1-yl)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (681 mg, 1.09 mmol) in THF (10 mL) then add tert-butylammonium fluoride (1.0 M solution in THF, 1.30 mL, 1.30 mmol). Stir the solution at room temperature for 2 h, then dilute with EtOAc (50 mL) and wash with 2N NH4Cl (20 mL). Concentrate the organic solution and purify the crude material by flash chromatography, using 8% MeOH (2N NH3)/CHCl3 as eluent, to give semi-pure material. Triturate the solids with ether to give the title compound as the free base (265 mg, 52%). Mix 2-(4-chloro-phenyl)-5-[4-(4-hydroxy-piperidin-1-yl)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (53 mg, 0.11 mmol) in MeOH (1 mL) and add 1N HCl (2.0 mL, 2.0 mmol). Stir the mixture at room temperature until all the solids dissolve and then cool to −20° C. overnight. Collect the precipitate by filtration, wash with ether, and dry under vacuum to give the title compound (40 mg, 70%). MS (ES+) 470.0 (M+1)+. 1H NMR (400 MHz, DMSO-d6): δ 11.69 (s, 1H), 8.06 (d, 2H, J=8.4 Hz), 7.70 (s, 1H), 7.63 (d, 2H, J=8.4 Hz), 7.34 (s, 1H), 7.14 (s, 1H), 4.65 (s, 4H), 4.16 (t, 2H, J=6.8 Hz), 3.95 (s, 3H), 3.64-3.32 (m, 2H), 3.29 (t, 2H, J=7.0 Hz), 2.11-1.76 (m, 4H),

reactant | 2-(4-chloro-phenyl)-5-[3-methoxy-4-(4-triisopropylsilanyloxy-piperidin-1-yl)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 1.09 mmol, 681 mg | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)N1CCC(CC1)O[Si](C(C)C)(C(C)C)C(C)C)OC)=O | C33H44ClN3O3SSi
reactant | tert-butylammonium fluoride | 1.30 mmol, 1.0 M, 1.30 mL | [F-].C(C)(C)(C)[NH3+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Chloro-phenyl)-5-[4-(4-hydroxy-piperidin-1-yl)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)N1CCC(CC1)O)OC)=O | InChI=1S/C24H24ClN3O3S.ClH/c1-31-21-14-17(6-7-20(21)27-11-8-18(29)9-12-27)28-13-10-19-22(24(28)30)32-23(26-19)15-2-4-16(25)5-3-15;/h2-7,14,18,29H,8-13H2,1H3;1H
